US04690157
Using the same procedure as described above, acetophenone is reacted with γ-butyrolactone to produce 2-(1-hydroxy-1-methyl-1-phenylmethyl)-γ-butyrolactone.

reactant | acetophenone | C(C)(=O)C1=CC=CC=C1 | C8H8O
reactant | γ-butyrolactone | C1(CCCO1)=O | C4H6O2
product | 2-(1-hydroxy-1-methyl-1-phenylmethyl)-γ-butyrolactone | OC(C1=CC=CC=C1)(C)C1C(=O)OCC1 | C12H14O3
